US04638067
To 0.80 g (2.46 mmol) of 1-cyclohexyl-6,7,8-trifluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid in 15 ml of acetonitrile was added 0.37 g (2.46 mmol) of 1,8-diazobicyclo[5.4.0]undec7-ene and 0.33 g (2.58 mmol) of 3-[(ethylamino)methyl]pyrrolidine. The mixture was refluxed for one hour, cooled, filtered, and the solids washed with ether to give 0.86 g of 1-cyclohexyl-7-[3-[(ethylamino)methyl]-1-pyrrolidinyl]-6,8-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid, mp 194°-196° C.

reactant | 1-cyclohexyl-6,7,8-trifluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 2.46 mmol, 0.80 g | C1(CCCCC1)N1C=C(C(C2=CC(=C(C(=C12)F)F)F)=O)C(=O)O | C16H14F3NO3
reactant | 3-[(ethylamino)methyl]pyrrolidine | 2.58 mmol, 0.33 g | C(C)NCC1CNCC1 | C7H16N2
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
product | 1-cyclohexyl-7-[3-[(ethylamino)methyl]-1-pyrrolidinyl]-6,8-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 0.86 g | C1(CCCCC1)N1C=C(C(C2=CC(=C(C(=C12)F)N1CC(CC1)CNCC)F)=O)C(=O)O | C23H29F2N3O3
